US06124343
2-Hydroxy-4-(3-thienylmethoxy)benzaldehyde
A stirred solution of 2,4-dihydroxybenzaldehyde (31.8 g) in dry dimethylformamide (150 ml) at ambient temperature was treated with sodium hydride (11.96 g; 60% dispersion in mineral oil), portionwise, during 30 minutes. After a further period of 15 minutes, the mixture was treated, dropwise, with a solution of 3-chloromethylthiophene (35 g) in dimethylformamide (50 ml). The mixture was stirred at 70° C. for 2 hours, cooled and the solvent evaporated. The residue was partitioned between ethyl acetate (200 ml) and 0.5 N hydrochloric acid (200 ml) and the aqueous layer was extracted twice with ethyl acetate (100 ml). The combined organic phases were washed with brine (100 ml), dried over magnesium sulphate, and evaporated. The residue was subjected to flash chromatography on silica eluting with a mixture of ethyl acetate and pentane (1:4, v/v), to give a colourless oil, which crystallised on standing. This solid was recrystallized from diisopropyl ether, to give the title compound (8 g) as a white solid.

reactant | 2,4-dihydroxybenzaldehyde | 31.8 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | sodium hydride | 11.96 g | [H-].[Na+]
reactant | 3-chloromethylthiophene | 35 g | ClCC1=CSC=C1 | C5H5ClS
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Hydroxy-4-(3-thienylmethoxy)benzaldehyde | 8 g | OC1=C(C=O)C=CC(=C1)OCC1=CSC=C1 | C12H10O3S
